US06548677B1
Preparation of 3,6-dibromo-2-methylbenzaldoxime
10 g (0.42 mol) of 3,6-dibromo-2-methylbenzaldehyde and 178.5 g (0.272 mol) of a 25% strength aqueous solution of hydroxylamine sulfate are mixed in 1.2 l of toluene and heated at 80° C. Over a period of 2 h, 109.2 g (1.36 mol) of 50% strength NaOH are then added dropwise such that the pH is between 3 and 5. Stirring at 80° C. is continued for 1 h, the mixture is stirred at room temperature overnight and the phases are then separated at 80° C. The organic phase is washed once with 350 ml of water. The organic phase is concentrated and the residue is recrystallized from cyclohexane. This gives 113.9 g (93% of theory) of the aldoxime.

reactant | 3,6-dibromo-2-methylbenzaldehyde | 0.42 mol, 10 g | BrC=1C(=C(C=O)C(=CC1)Br)C | C8H6Br2O
reactant | hydroxylamine sulfate | S(=O)(=O)(O)O.NO
reactant | NaOH | [OH-].[Na+]
solvent | toluene | 1.2 l | C1(=CC=CC=C1)C | C7H8
product | 3,6-dibromo-2-methylbenzaldoxime | BrC=1C(=C(C=NO)C(=CC1)Br)C | C8H7Br2NO
